US08957070B2
4-(Propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide
To a mixture of 2-(tritylthio)ethylamine hydrochloride (0.42 g), triethylamine (0.17 mL) and N,N-dimethylformamide (15 mL) were added 4-(propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid (0.42 g), 1H-1,2,3-benzotriazol-1-ol (0.20 g) and N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride (0.25 g) under ice-cooling, and the mixture was stirred at room temperature for 18 hr. The reaction mixture was diluted with ethyl acetate, washed with aqueous citric acid solution, aqueous sodium hydrogencarbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained oil was crystallized from ethyl acetate-hexane to give the title compound (690 mg, yield 97%) as pale-yellow prism crystals. melting point 200-201° C.

reactant | 2-(tritylthio)ethylamine hydrochloride | 0.42 g | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
reactant | 4-(propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxylic acid | 0.42 g | C(CC)S(=O)(=O)C1=C2C=C(NC2=C(C=C1)NS(=O)(=O)C=1SC=CC1)C(=O)O | C16H16N2O6S3
reactant | 1H-1,2,3-benzotriazol-1-ol | 0.20 g | N1(N=NC2=C1C=CC=C2)O | C6H5N3O
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 0.25 g | Cl.CN(CCCN=C=NCC)C
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.17 mL | C(C)N(CC)CC | C6H15N
product | 4-(Propylsulfonyl)-7-[(2-thienylsulfonyl)amino]-N-[2-(tritylthio)ethyl]-1H-indole-2-carboxamide | 690 mg, yield 97% | C(CC)S(=O)(=O)C1=C2C=C(NC2=C(C=C1)NS(=O)(=O)C=1SC=CC1)C(=O)NCCSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H35N3O5S4
